US06245773B1
A suspension of 2-cyanoethyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate (29 g, 0.094 mol), O-methylisourea hemisulfate (21 g, 0.121 mol, 1.3 eq.), dimethylaminopyridine (29.67 g, 0.243 mol, 2.5 eq.) in ethanol (400 mL) was stirred at 50-55° C. for 6 h. The solvent was evaporated from the combined filtrates and the residue was purified by column chromatography (SiO2, EtOAc/hexane, 10%-30%) to get 5-(2-cyanoethoxycarbonyl)-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine as a pale yellow oil (10.5 g, 31%). The 1H-NMR analysis showed it to be a mixture of amine/imine tautomers and was used as is in the next step.

reactant | 2-cyanoethyl 2-[(3,4-difluorophenyl)methylene]-3-oxo-4-methoxybutyrate | 0.094 mol, 29 g | FC=1C=C(C=CC1F)C=C(C(=O)OCCC#N)C(COC)=O | C15H13F2NO4
reactant | O-methylisourea hemisulfate | 0.121 mol, 21 g, 1.3 eq. | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | dimethylaminopyridine | 0.243 mol, 29.67 g, 2.5 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 5-(2-cyanoethoxycarbonyl)-1,6-dihydro-2-methoxy-4-methoxymethyl-6-(3,4-difluorophenyl)pyrimidine | 10.5 g, 31% | C(#N)CCOC(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)F)F)OC)COC | C17H17F2N3O4
